US05460669
Dinitroazetidinium 3-Nitramino-4-Nitrofurazan
A clean 3 neck round bottom flask was equipped with magnetic stirring, thermocouple, and nitrogen and placed into an ice bath. 3-Nitroamino-4-nitrofurazan (1.75 grams; 0.01M) is added to 5 mls dry methanol. Dinitroazetidinium (1.47 grams; 0.01 mol) is added slowly over 10 minutes not exceeding 10° C. The resulting mixture is stirred cold for 10 minutes, then the mixture is stirred for an additional hour at room temperature. After transfer to a tarred one neck flask, the solvent is removed in vacuo at 35° C. Recrystallization followed.

reactant | 3-Nitroamino-4-nitrofurazan | 0.01M, 1.75 grams | [N+](=O)([O-])NC1=NON=C1[N+](=O)[O-] | C2HN5O5
reactant | Dinitroazetidinium | 0.01 mol, 1.47 grams | [N+](=O)([O-])[N+]1(CCC1)[N+](=O)[O-]
solvent | methanol | 5 mls | CO | CH4O
product | Dinitroazetidinium 3-Nitramino-4-Nitrofurazan | N([N+](=O)[O-])C1=NON=C1[N+](=O)[O-].[N+](=O)([O-])[N+]1(CCC1)[N+](=O)[O-] | InChI=1S/C3H6N3O4.C2HN5O5/c7-4(8)6(5(9)10)2-1-3-6;8-6(9)2-1(3-7(10)11)4-12-5-2/h1-3H2;(H,3,4)/q+1;
